US05763635
Ethyl (E)-4-[2-(5,6-dihydro-5,5-dimethyl-8-(phenylsulfonyl)naphthalenyl)ethenyl]benzoate (Compound A17)
To a solution of 0.090 g (0.2 mmol) of ethyl (E)-4-[2-(5,6-dihydro-5,5-dimethyl-8-(phenylthio)-naphthalenyl)ethenyl]benzoate (Compound A16) in 2.0 mL of methylene chloride was added dropwise a solution of 140 mg (0.45 mmol, 50-60%) of m-chloroperoxybenzoic acid in 2.0 mL of methylene chloride and the reaction stirred at room temperature for 3.5 h. The mixture was diluted with water and extracted with methylene chloride (2×). The organic phase was dried over MgSO4 and concentrated in vacuo. The crude product was purified by flash chromatography (silica, 30% ethyl acetate in hexanes) followed by recrystallization in EtOH to afford the title compound as a solid.

reactant | ethyl (E)-4-[2-(5,6-dihydro-5,5-dimethyl-8-(phenylthio)-naphthalenyl)ethenyl]benzoate | 0.2 mmol, 0.090 g | CC1(C=2C=CC=C(C2C(=CC1)SC1=CC=CC=C1)/C=C/C1=CC=C(C(=O)OCC)C=C1)C | C29H28O2S
reactant | m-chloroperoxybenzoic acid | 0.45 mmol, 140 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | water | O | H2O
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
product | Ethyl (E)-4-[2-(5,6-dihydro-5,5-dimethyl-8-(phenylsulfonyl)naphthalenyl)ethenyl]benzoate | CC1(C=2C=CC=C(C2C(=CC1)S(=O)(=O)C1=CC=CC=C1)/C=C/C1=CC=C(C(=O)OCC)C=C1)C | C29H28O4S
